US07375134B2
n-BuLi (2.5 M in hexanes, 1.43 mL) was added to a −70° C. THF (8.5 mL) solution of 1,4-dibromobenzene (884 mg) and the mixture was stirred for 15 minutes. A THF (8.5 mL) solution of (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methyl-N-[(1E)-2,2-difluoroethylidene]pentan-2-amine (1.0 g) was then added dropwise and the mixture was stirred for 1.5 hours. The mixture was then poured slowly into an icy saturated aqueous solution of ammonium chloride under vigorous stirring and was extracted with 3 portions of ethyl acetate. The combined organic layers were washed with brine, dried with magnesium sulfate and the solvent was removed in vacuo to yield a residue, which was purified on SiO2 using a gradient of hexanes and ethyl acetate (90:10 to 75:25) as eluent to yield (2S)-N-[(1S)-1-(4-bromophenyl)-2,2-difluoroethyl]-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methylpentan-2-amine. (2S)-N-[(1S)-1-(4-Bromophenyl)-2,2-difluoroethyl]-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methylpentan-2-amine (200 mg) was dissolved in CH3CN (4 mL) and the solution was cooled to 0° C. HF-pyridine (40 μL) was added dropwise and the mixture was reacted for 16 hours. The mixture was poured into a saturated solution of sodium bicarbonate, ethyl acetate was added and the resultant mixture was vigorously shaken. The organic layer was separated and the aqueous further extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with brine, dried with magnesium sulfate and the solvent was removed in vacuo to yield a residue which was purified on SiO2 using a gradient of hexanes and ethyl acetate (80:20 to 60:40) as eluent to yield the title compound.

reactant | n-BuLi | 2.5 M, 1.43 mL | [Li]CCCC
reactant | 1,4-dibromobenzene | 884 mg | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methyl-N-[(1E)-2,2-difluoroethylidene]pentan-2-amine | 1.0 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(C)C)/N=C/C(F)F | C14H29F2NOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
product | (2S)-N-[(1S)-1-(4-bromophenyl)-2,2-difluoroethyl]-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methylpentan-2-amine | BrC1=CC=C(C=C1)[C@@H](C(F)F)N[C@H](CO[Si](C)(C)C(C)(C)C)CC(C)C | C20H34BrF2NOSi
